US06372777B1
Preparation of 1-(3-Carboxyphenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
3-Aminobenzoic acid (10 mmol, 1.4 g), 2-benzoyl-4-oxo-pentanoic acid ethyl ester (10 mmol, 2.5 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The resulting oil was resuspended in chloroform-ether, then the insoluble material was filtered from the reaction product. The soluble material was purified over silica gel which yielded the named product (m.p. 161.0° C.-162.7° C.).

reactant | 3-Aminobenzoic acid | 10 mmol, 1.4 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | 2-benzoyl-4-oxo-pentanoic acid ethyl ester | 10 mmol, 2.5 g | C(C)OC(C(CC(C)=O)C(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-Carboxyphenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C)C1=CC(=CC=C1)C(=O)O)C1=CC=CC=C1 | C21H19NO4
